US05393735
N-(4'-chloro-2'-fluoro-5'-propargyloxyphenyl)-3-(trifluoromethyl)glutaramic acid
Into a 1 liter three-necked round-bottomed flask equipped with overhead stirrer, dropping funnel, thermometer and nitrogen (N2) inlet were placed 3-(trifluoromethyl)glutaric anhydride (18.2 g, 0.100 tool) and methylene chloride (CH2 -Cl2) (250 ml). The mixture was stirred to homogeneity and a solution of 4-chloro-2-fluoro-5-propargyloxyaniline (19.9 g, 0.100 mol) in CH2 -Cl2 (50 ml) was added dropwise over 10 minutes to give a clear solution. The mixture was stirred overnight at ambient temperature, during which time a thick white precipitate was formed.

reactant | 3-(trifluoromethyl)glutaric anhydride | 18.2 g | FC(C1CC(=O)OC(C1)=O)(F)F | C6H5F3O3
reactant | Cl2 | ClCl | Cl2
reactant | 4-chloro-2-fluoro-5-propargyloxyaniline | 0.100 mol, 19.9 g | ClC1=CC(=C(N)C=C1OCC#C)F | C9H7ClFNO
reactant | Cl2 | 50 ml | ClCl | Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | N-(4'-chloro-2'-fluoro-5'-propargyloxyphenyl)-3-(trifluoromethyl)glutaramic acid | ClC1=CC(=C(C=C1OCC#C)NC(CC(CC(=O)O)C(F)(F)F)=O)F | C15H12ClF4NO4
